US04311709
To a cooled (ice-bath cooling) solution of 1-amino-3-{{3-[4-(1-methylethyl)phenyl]-1-{2-[4-(1-methylethyl)phenyl]ethyl}propyl}amino]-2-propanol in isopropanol (about 5 ml. of isopropanol for each gram of free base) is added anhydrous hydrogen chloride gas with stirring. When precipitation is complete, the resultant dihydrochloride is filtered. Recrystallization from isopropanol (95), water (5), (about 5 ml. of solvent for each gram of product) yields 1-amino-3-{{3-[4-(1-methylethyl)phenyl]-1-{2-[4-(1-methylethyl)phenyl]ethyl}propyl}amino]-2-propanol dihydrochloride monohydrate, m.p. 263°-265° C.

reactant | 1-amino-3-{{3-[4-(1-methylethyl)phenyl]-1-{2-[4-(1-methylethyl)phenyl]ethyl}propyl}amino]-2-propanol | NCC(CNC(CCC1=CC=C(C=C1)C(C)C)CCC1=CC=C(C=C1)C(C)C)O | C26H40N2O
reactant | hydrogen chloride | Cl | ClH
solvent | isopropanol | C(C)(C)O | C3H8O
product | 1-amino-3-{{3-[4-(1-methylethyl)phenyl]-1-{2-[4-(1-methylethyl)phenyl]ethyl}propyl}amino]-2-propanol dihydrochloride monohydrate | O.Cl.Cl.NCC(CNC(CCC1=CC=C(C=C1)C(C)C)CCC1=CC=C(C=C1)C(C)C)O | InChI=1S/C26H40N2O.2ClH.H2O/c1-19(2)23-11-5-21(6-12-23)9-15-25(28-18-26(29)17-27)16-10-22-7-13-24(14-8-22)20(3)4;;;/h5-8,11-14,19-20,25-26,28-29H,9-10,15-18,27H2,1-4H3;2*1H;1H2
